US04281008
trans-Ethyl 3-[7-[3-(4-acetyl-3-hydroxy-2-n-propyl phenoxy)-2-hydroxypropyloxy]-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl]acrylate (1.2 g) in dioxan was hydrogenated, over a palladium-charcoal catalyst, at atmospheric pressure and ambient temperature. The catalyst was removed by filtration and the concentrated filtrate chromatographed over silica-gel (60 g). Elution with ether afforded a white solid which was crystallised from etherpetrol (40°-60°) to yield ethyl 3-[7-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-2-hydroxypropyloxy]-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl]propionate (0.79 g), mp 137°-138° C.

reactant | trans-Ethyl 3-[7-[3-(4-acetyl-3-hydroxy-2-n-propyl phenoxy)-2-hydroxypropyloxy]-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl]acrylate | 1.2 g | C(C)(=O)C1=C(C(=C(OCC(COC2=C(C3=C(C(C=C(O3)/C=C/C(=O)OCC)=O)C=C2)CCC)O)C=C1)CCC)O | C31H36O9
solvent | dioxan | O1CCOCC1 | C4H8O2
catalyst | palladium-charcoal | [Pd] | Pd
product | ethyl 3-[7-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-2-hydroxypropyloxy]-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl]propionate | 0.79 g | C(C)(=O)C1=C(C(=C(OCC(COC2=C(C3=C(C(C=C(O3)CCC(=O)OCC)=O)C=C2)CCC)O)C=C1)CCC)O | C31H38O9
